US09315521B2
3-chloro-N,N-diethyl-2-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide
In a 100 mL round bottom flask, diethylamine (0.31 mL, 3.0 mmol) was added into the solution of MeMgBr (0.90 mL, 3 mmol) in THF (20 mL). The resulting mixture was stirred at 40° C. for 1 hour, followed by addition of 3-chloro-2-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzonitrile (292 mg, 1.0 mmol). After another 1.5 hours, the solvent was removed under vacuum. The crude product was purified by CombiFlash (0 to 20% MeOH in DCM) to provide the title compound as a grey-yellow solid (200 mg, 68% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.17 (t, 6H), 2.28 (s, 3H), 3.31 (q, 4H), 4.60-4.80 (m, 2H), 6.03 (br, 1H), 7.57 (m, 2H), 7.88 (d, 1H); M+365.

reactant | diethylamine | 3.0 mmol, 0.31 mL | C(C)NCC | C4H11N
reactant | MeMgBr | 3 mmol, 0.90 mL | C[Mg+].[Br-]
reactant | 3-chloro-2-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzonitrile | 1.0 mmol, 292 mg | ClC=1C(=C(C#N)C=CC1)CSC1=NC(=CC(=N1)O)C | C13H10ClN3OS
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-chloro-N,N-diethyl-2-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide | 200 mg, 68% yield | ClC=1C(=C(C=CC1)C(N(CC)CC)=N)CSC1=NC(=CC(=N1)O)C | C17H21ClN4OS
